US05444042
Bz-DL-Ala-CO2Bzl.
This compound was prepared from Bz-Ala-OH in 26% yield by the procedure described in Example PKC1, except that benzyl oxalyl chloride was used in place of ethyl oxayl chloride and sodium benzyloxide in benzyl alcohol was used for enol ester hydrolysis; single spot on tlc, Rf2 =0.69 (CHCl3 :MeOH=9:1); mp 95°-97° C.; MS, m/e=312 (M+ +1). Anal. Calcd. for C18H17O4N.1/2 H2O: C, 67.48; H, 5.66; N, 4.37. Found: C, 67.78; H, 5.55; N, 4.66.

reactant | Bz-Ala-OH | N([C@@H](C)C(=O)O)C(=O)C1=CC=CC=C1 | C10H11NO3
reactant | sodium benzyloxide | C(C1=CC=CC=C1)OCC1=CC=CC=C1.[Na]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
solvent | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
solvent | H2O | O | H2O
product | Bz-DL-Ala-CO2Bzl | 26% yield | N(C(C)C(=O)C(=O)OCC1=CC=CC=C1)C(=O)C1=CC=CC=C1 | C18H17NO4
